US05117057
N'-t-butyl-N-benzoylhydrazine (1.0 g, 0.0052 mol) was suspended in 20 ml of toluene. Isonicotinoyl chloride hydrochloride (0.93 g, 0.0052 mol) was added and then a solution of sodium hydroxide (1.25 g of 50% aqueous NaOH) in 5 ml of water was added dropwise. After stirring at 23° C. for 2 hours, the solids were removed by filtration, washed with water and dried in air. The crude product was chromatographed on silica gel using 5% methanol/methylene chloride as eluant to afford pure N'-t-butyl-N-benzoyl-N'-isonicotinoylhydrazine. m.p. >210° C.

reactant | N'-t-butyl-N-benzoylhydrazine | 0.0052 mol, 1.0 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | Isonicotinoyl chloride hydrochloride | 0.0052 mol, 0.93 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | sodium hydroxide | 1.25 g | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
product | N'-t-butyl-N-benzoyl-N'-isonicotinoylhydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=NC=C1)=O | C17H19N3O2
